### PR TITLE
fix(Data/Fin/Lemmas): Fufill `proof_wanted` with missing lemmas and refactor.

### PR DESCRIPTION
**Pull request by linesthatinterlace**
Add missing lemmas and refactor surrounding proofs

### CODE REVIEW

File: Batteries/Data/Fin/Lemmas.lean [hunk 1]
```diff
@@ -42,63 +42,70 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
-  · intro ⟨x, hx⟩
-    match exists_of_findSome?_eq_some hx with
-    | ⟨i, hi⟩ => exists i, x
-  · intro ⟨i, x, hix⟩
-    match h : findSome? f with
-    | some x => exists x
-    | none => rw [eq_none_of_findSome?_eq_none h i] at hix; contradiction
+@[simp]
+theorem findSome?_isSome_iff {f : Fin n → Option α} :
+    (findSome? f).isSome ↔ ∃ i, (f i).isSome ∧ ∀ j < i, (f j).isNone := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: This variant is not stronger than `(findSome? f).isSome ↔ ∃ i, (f i).isSome`: if there is such an `i` then of course there must be a first one.

File: Batteries/Data/Fin/Lemmas.lean [hunk 2]
```diff
@@ -42,63 +42,70 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+  simp only [Option.isNone_iff_eq_none, findSome?_eq_none_iff] at h ⊢
+  exact h _
+
+theorem isSome_findSome?_of_isSome {f : Fin n → Option α} (h : (f i).isSome) :
+    (findSome? f).isSome := by
+  simp only [Option.isSome_iff_ne_none, ne_eq, findSome?_eq_none_iff]
+  grind
+
+
+@[deprecated findSome?_isSome_iff (since := "2025-09-26")]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: It's not useful to deprecate a theorem that never existed.

File: Batteries/Data/Fin/Lemmas.lean [hunk 3]
```diff
@@ -126,31 +133,48 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
-  · contradiction
-  · simp [*]
-
-theorem find?_isSome_iff {p : Fin n → Bool} : (find? p).isSome ↔ ∃ i, p i := by
+theorem find?_eq_some_iff {p : Fin n → Bool} :
+    find? p = some i ↔ p i ∧ ∀ j, j < i → ¬ p j := by
+  simp [find?, and_assoc]
+
+theorem find?_isSome_iff {p : Fin n → Bool} :
+    (find? p).isSome ↔ ∃ i, p i ∧ ∀ j < i, ¬ p j := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: As above, this is not stronger than `(find? p).isSome ↔ ∃ i, p i`.

File: Batteries/Data/Fin/Lemmas.lean [hunk 4]
```diff
@@ -126,31 +133,48 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
+    ¬ p i := by
+  rw [find?_eq_none_iff] at h
+  grind
+
+theorem exists_of_find?_isSome {p : Fin n → Bool} (h : (find? p).isSome) :
+    ∃ i, p i ∧ ∀ j < i, ¬ p j := by
+  rwa [find?_isSome_iff] at h
+
+theorem isNone_of_find?_isNone  (h : (find? p).isNone) : ¬ p i := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem isNone_of_find?_isNone (h : (find? p).isNone) : ¬ p i := by
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 5]
```diff
@@ -126,31 +133,48 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+  simp only [Option.isNone_iff_eq_none, find?_eq_none_iff] at h ⊢
+  exact h _
+
+ theorem isSome_find?_of_isSome (h : p i) :
+    (find? p).isSome := by
+  simp only [Option.isSome_iff_ne_none, ne_eq, find?_eq_none_iff]
+  grind
+
+@[deprecated find?_isSome_iff (since := "2025-09-26")]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: As above. This is not a valid deprecation.

File: Batteries/Data/Fin/Lemmas.lean [hunk 6]
```diff
@@ -42,63 +42,70 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+    ∃ i, f i = some x ∧ ∀ j < i, f j = none := by
+  rwa [findSome?_eq_some_iff] at h
+
+theorem eq_none_of_findSome?_eq_none {f : Fin n → Option α} (h : findSome? f = none) (i) :
+    f i = none := by
+  rw [findSome?_eq_none_iff] at h
+  apply h
+
+theorem exists_of_findSome?_isSome {f : Fin n → Option α} (h : (findSome? f).isSome) :
+    ∃ i, (f i).isSome ∧ ∀ j < i, (f j).isNone := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: As above, `∃ i, (f i).isSome` is enough.

File: Batteries/Data/Fin/Lemmas.lean [hunk 7]
```diff
@@ -126,31 +133,48 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
 
-theorem find?_eq_none_iff {p : Fin n → Bool} : find? p = none ↔ ∀ i, ¬ p i := by
-  rw [← find?_isNone_iff, Option.isNone_iff_eq_none]
+theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
+    ¬ p i := by
+  rw [find?_eq_none_iff] at h
+  grind
+
+theorem exists_of_find?_isSome {p : Fin n → Bool} (h : (find? p).isSome) :
+    ∃ i, p i ∧ ∀ j < i, ¬ p j := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: As above, `∃ i, p i` suffices.

File: Batteries/Data/Fin/Lemmas.lean [hunk 8]
```diff
@@ -42,63 +42,70 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+  | succ n ih =>
+    simp only [findSome?_succ, Option.orElse_eq_orElse,
+      Option.orElse_eq_or, Option.or_eq_none_iff, ih, forall_fin_succ]
 
 theorem findSome?_isNone_iff {f : Fin n → Option α} :
     (findSome? f).isNone ↔ ∀ i, (f i).isNone := by simp
 
+theorem exists_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
+    ∃ i, f i = some x ∧ ∀ j < i, f j = none := by
+  rwa [findSome?_eq_some_iff] at h
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
    ∃ i, f i = some x ∧ ∀ j < i, f j = none :=
  findSome?_eq_some_iff.1 h
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 9]
```diff
@@ -42,63 +42,70 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+
+theorem eq_none_of_findSome?_eq_none {f : Fin n → Option α} (h : findSome? f = none) (i) :
+    f i = none := by
+  rw [findSome?_eq_none_iff] at h
+  apply h
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
    f i = none := findSome?_eq_none_iff.1 h i
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 10]
```diff
@@ -42,63 +42,70 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+
+theorem exists_of_findSome?_isSome {f : Fin n → Option α} (h : (findSome? f).isSome) :
+    ∃ i, (f i).isSome ∧ ∀ j < i, (f j).isNone := by
+  rwa [findSome?_isSome_iff] at h
+
+theorem isNone_of_findSome?_isNone {f : Fin n → Option α} (h : (findSome? f).isNone) :
+  (f i).isNone := by
+  simp only [Option.isNone_iff_eq_none, findSome?_eq_none_iff] at h ⊢
+  exact h _
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
    (f i).isNone := findSome?_isNone_iff.1 h i
```

**Review by fgdorais — CHANGES_REQUESTED** [review]

**Comment by fgdorais** [comment]
Note that the `alias` command can break an iff into two implications. After importing `Batteries.Tactic.Alias` if necessary, the syntax is `alias ⟨ltr, rtl⟩ := ...` where `ltr` and `rtl` can be `_` if they are not needed. That doesn't always produce the ideal signature but it's a nice shortcut when it works.

File: Batteries/Data/Fin/Lemmas.lean (hunk 2 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Good point. I de-deprecated it anyway, I can see reasons to have both.

File: Batteries/Data/Fin/Lemmas.lean (hunk 1 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: I agree, but I want to avoid having to re-derive this fact every time.

File: Batteries/Data/Fin/Lemmas.lean (hunk 3 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: I agree: where is the lemma `∃ i, p i  ↔ ∃ i, p i ∧ ∀ j < i, ¬ p j` that you would need to link them?

File: Batteries/Data/Fin/Lemmas.lean (hunk 5 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Agreed.

File: Batteries/Data/Fin/Lemmas.lean (hunk 6 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: I agree that it is enough but I would like to know the name of the lemma which shows this.

File: Batteries/Data/Fin/Lemmas.lean (hunk 7 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Comment as above (let's have this discussion on Zulip).

File: Batteries/Data/Fin/Lemmas.lean [hunk 11]
```diff
@@ -42,63 +42,71 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+    exact fun i => i.elim0
+  | succ n ih =>
+    simp only [findSome?_succ, Option.orElse_eq_orElse,
+      Option.orElse_eq_or, Option.or_eq_none_iff, ih, forall_fin_succ]
 
 theorem findSome?_isNone_iff {f : Fin n → Option α} :
     (findSome? f).isNone ↔ ∀ i, (f i).isNone := by simp
 
+theorem exists_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
+    ∃ i, f i = some x ∧ ∀ j < i, f j = none :=
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: Let's split this one in two separate theorems.

File: Batteries/Data/Fin/Lemmas.lean [hunk 12]
```diff
@@ -126,31 +134,49 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+
+theorem find?_eq_none_iff {p : Fin n → Bool} : find? p = none ↔ ∀ i, ¬ p i := by
   simp [find?]
 
 theorem find?_isNone_iff {p : Fin n → Bool} : (find? p).isNone ↔ ∀ i, ¬ p i := by
   simp [find?]
 
-proof_wanted find?_eq_some_iff {p : Fin n → Bool} : find? p = some i ↔ p i ∧ ∀ j, j < i → ¬ p j
+theorem eq_true_of_find?_eq_some {p : Fin n → Bool} (h : find? p = some i) :
+    p i ∧ ∀ j < i, ¬ p j := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: Let's split this one into two theorems.

**Review by fgdorais — CHANGES_REQUESTED** [review]
Somewhat awkwardly, `find?_isSome` should be `isSome_find?` and so on.

File: Batteries/Data/Fin/Lemmas.lean (hunk 11 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Can I check, what do you want the two theorems to be?

File: Batteries/Data/Fin/Lemmas.lean (hunk 1 above)
Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: Use `findSome?_eq_some_iff` instead? Also note that the <- direction is strictly weaker than the <- direction of `(findSome? f).isSome ↔ ∃ i, (f i).isSome`.

File: Batteries/Data/Fin/Lemmas.lean (hunk 11 above)
Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: Disregard this split, it doesn't make sense. But let's change the name to `exists_minimal_of_findSome?_eq_some` or something similar.

File: Batteries/Data/Fin/Lemmas.lean (hunk 12 above)
Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: Maybe this?
```suggestion
theorem eq_true_of_find?_eq_some {p : Fin n → Bool} (h : find? p = some i) : p i = true := by ...

theorem eq_false_of_find?_eq_some_of_lt {p : Fin n → Bool} (h : find? p = some i) : j < i  → p j = false := by ...
```

Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Makes sense.

File: Batteries/Data/Fin/Lemmas.lean [hunk 13]
```diff
@@ -126,31 +134,49 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+  rwa [find?_eq_some_iff] at h
 
-theorem find?_eq_none_iff {p : Fin n → Bool} : find? p = none ↔ ∀ i, ¬ p i := by
-  rw [← find?_isNone_iff, Option.isNone_iff_eq_none]
+theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
+    ¬ p i := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: The name doesn't match the statement:
```
theorem ne_true_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
    p i ≠ true := by
```
or
```
theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
    p i = false := by
```
Perhaps both?

File: Batteries/Data/Fin/Lemmas.lean [hunk 14]
```diff
@@ -42,63 +42,71 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+      Option.orElse_eq_or, Option.or_eq_none_iff, ih, forall_fin_succ]
 
 theorem findSome?_isNone_iff {f : Fin n → Option α} :
     (findSome? f).isNone ↔ ∀ i, (f i).isNone := by simp
 
+theorem exists_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
+    ∃ i, f i = some x ∧ ∀ j < i, f j = none :=
+  findSome?_eq_some_iff.1 h
+
+theorem exists_of_findSome?_eq_some' {f : Fin n → Option α} (h : findSome? f = some x) :
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem exists_eq_some_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 15]
```diff
@@ -126,31 +134,49 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
+    ¬ p i := by
+  rw [find?_eq_none_iff] at h
+  grind
+
+theorem exists_of_find?_isSome {p : Fin n → Bool} (h : (find? p).isSome) :
+    ∃ i, p i ∧ ∀ j < i, ¬ p j := by
+  rwa [find?_isSome_iff] at h
+
+theorem exists_of_find?_isSome' {p : Fin n → Bool} (h : (find? p).isSome) :
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem exists_eq_true_of_isSome_find? {p : Fin n → Bool} (h : (find? p).isSome) :
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 16]
```diff
@@ -126,31 +134,49 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+    ∃ i, p i := by
+  have H := exists_of_find?_isSome h
+  grind
+
+theorem isNone_of_find?_isNone (h : (find? p).isNone) : ¬ p i := by
+  simp only [Option.isNone_iff_eq_none, find?_eq_none_iff] at h ⊢
+  exact h _
+
+ theorem isSome_find?_of_isSome (h : p i) :
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
 theorem isSome_find?_of (h : p i) :
```
Or something better?

File: Batteries/Data/Fin/Lemmas.lean [hunk 17]
```diff
@@ -126,31 +134,49 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+theorem exists_of_find?_isSome {p : Fin n → Bool} (h : (find? p).isSome) :
+    ∃ i, p i ∧ ∀ j < i, ¬ p j := by
+  rwa [find?_isSome_iff] at h
+
+theorem exists_of_find?_isSome' {p : Fin n → Bool} (h : (find? p).isSome) :
+    ∃ i, p i := by
+  have H := exists_of_find?_isSome h
+  grind
+
+theorem isNone_of_find?_isNone (h : (find? p).isNone) : ¬ p i := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem ne_true_of_isNone_find? (h : (find? p).isNone) : ¬ p i := by
```
Add `eq_false_of_isNone_find?` too?

File: Batteries/Data/Fin/Lemmas.lean (hunk 13 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: I think we probably shouldn't have both because one is the simp-normal form of the other (`p i = false` is simp-normal). However, this does somewhat make it slightly harder to drop in using a decidable `Fin n -> Prop` predicate...

Lemmas like [List.find?_cons_of_pos](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Find.html#List.find?_cons_of_pos) use "pos" and "neg". Maybe this is the way?

File: Batteries/Data/Fin/Lemmas.lean (hunk 16 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: As per Zulip, I think we should consider pos/neg.

File: Batteries/Data/Fin/Lemmas.lean (hunk 17 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: As per Zulip, I think we should consider pos/neg. I think we should probably avoid eq_false and treat p like a predicate.

File: Batteries/Data/Fin/Lemmas.lean (hunk 13 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: As per Zulip, I think we should consider pos/neg.

File: Batteries/Data/Fin/Lemmas.lean [hunk 18]
```diff
@@ -42,63 +42,78 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+theorem exists_of_isSome_findSome? {f : Fin n → Option α} (h : (findSome? f).isSome) :
+    ∃ i, (f i).isSome ∧ ∀ j < i, (f j).isNone := by
+  rwa [isSome_findSome?_iff] at h
+
+theorem exists_of_isSome_findSome?' {f : Fin n → Option α} (h : (findSome? f).isSome) :
+    ∃ i, (f i).isSome := by
+  rw [isSome_findSome?_iff] at h
+  grind
+
+<<<<<<< HEAD
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: Oops!

Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Turned off autosave. Will fix in a sec.

File: Batteries/Data/Fin/Lemmas.lean [hunk 19]
```diff
@@ -42,63 +42,61 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+  rw [isSome_findSome?_iff] at h
+  grind
+
+theorem isNone_of_isNone_findSome? {f : Fin n → Option α} (h : (findSome? f).isNone) :
+    (f i).isNone := isNone_findSome?_iff.1 h i
+
+theorem isSome_findSome?_of_isSome {f : Fin n → Option α} (h : (f i).isSome) :
+    (findSome? f).isSome := by
+  simp only [Option.isSome_iff_ne_none, ne_eq, findSome?_eq_none_iff]
+  grind
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
    (findSome? f).isSome := isSome_findSome?_iff.2 ⟨_, h⟩
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 20]
```diff
@@ -42,63 +42,61 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
-      match exists_of_findSome?_eq_some h with
-      | ⟨i, h⟩ => rw [hf] at h; contradiction
-
-theorem findSome?_isNone_iff {f : Fin n → Option α} :
+theorem isNone_findSome?_iff {f : Fin n → Option α} :
     (findSome? f).isNone ↔ ∀ i, (f i).isNone := by simp
 
+@[simp] theorem isSome_findSome?_iff {f : Fin n → Option α} :
+    (findSome? f).isSome ↔ ∃ i, (f i).isSome := by
+  simp only [Option.isSome_iff_ne_none, ne_eq, findSome?_eq_none_iff, Classical.not_forall]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
  cases h : findSome? f with (simp only [findSome?_eq_none_iff, findSome?_eq_some_iff] at h; grind)
 ```

File: Batteries/Data/Fin/Lemmas.lean [hunk 21]
```diff
@@ -42,63 +42,61 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+
+theorem exists_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem exists_minimal_eq_some_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 22]
```diff
@@ -42,63 +42,61 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+    ∃ i, f i = some x ∧ ∀ j < i, f j = none :=
+  findSome?_eq_some_iff.1 h
+
+theorem exists_eq_some_of_findSome?_eq_some {f : Fin n → Option α}
+    (h : findSome? f = some x) : ∃ i, f i = some x := by
+  rw [findSome?_eq_some_iff] at h
+  grind
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
  grind [findSome?_eq_some_iff]
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 23]
```diff
@@ -42,63 +42,61 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
+
+theorem eq_none_of_findSome?_eq_none {f : Fin n → Option α} (h : findSome? f = none) (i) :
+    f i = none := findSome?_eq_none_iff.1 h i
+
+theorem exists_isSome_of_isSome_findSome? {f : Fin n → Option α} (h : (findSome? f).isSome) :
+    ∃ i, (f i).isSome := by
+  rw [isSome_findSome?_iff] at h
+  grind
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
    ∃ i, (f i).isSome := isSome_findSome?_iff.1 h
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 24]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
-theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) : p i = false := by
-  have hi := eq_none_of_findSome?_eq_none h i
-  simp only [Option.guard] at hi
-  split at hi
-  · contradiction
-  · simp [*]
-
-theorem find?_isSome_iff {p : Fin n → Bool} : (find? p).isSome ↔ ∃ i, p i := by
+theorem find?_eq_some_iff {p : Fin n → Bool} :
+    find? p = some i ↔ p i ∧ ∀ j, j < i → ¬ p j := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
    find? p = some i ↔ p i = true ∧ ∀ j < i, p j = false := by
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 25]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+  simp [find?, and_assoc]
+
+theorem isSome_find?_iff {p : Fin n → Bool} :
+    (find? p).isSome ↔ ∃ i, p i := by
   simp [find?]
 
-theorem find?_isNone_iff {p : Fin n → Bool} : (find? p).isNone ↔ ∀ i, ¬ p i := by
+theorem find?_eq_none_iff {p : Fin n → Bool} : find? p = none ↔ ∀ i, ¬ p i := by
   simp [find?]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
@[simp] theorem find?_eq_none_iff {p : Fin n → Bool} : 
    find? p = none ↔ ∀ i, p i = false := by simp [find?]
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 26]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
 
-proof_wanted find?_eq_some_iff {p : Fin n → Bool} : find? p = some i ↔ p i ∧ ∀ j, j < i → ¬ p j
+theorem isNone_find?_iff {p : Fin n → Bool} : (find? p).isNone ↔ ∀ i, ¬ p i := by
+  simp [find?]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem isNone_find?_iff {p : Fin n → Bool} : 
    (find? p).isNone ↔ ∀ i, p i = false := by simp
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 27]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
-  · simp [*]
-
-theorem find?_isSome_iff {p : Fin n → Bool} : (find? p).isSome ↔ ∃ i, p i := by
+theorem find?_eq_some_iff {p : Fin n → Bool} :
+    find? p = some i ↔ p i ∧ ∀ j, j < i → ¬ p j := by
+  simp [find?, and_assoc]
+
+theorem isSome_find?_iff {p : Fin n → Bool} :
+    (find? p).isSome ↔ ∃ i, p i := by
   simp [find?]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
@[simp] theorem isSome_find?_iff {p : Fin n → Bool} :
    (find? p).isSome ↔ ∃ i, p i := by simp [find?]
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 28]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
 
-proof_wanted find?_eq_some_iff {p : Fin n → Bool} : find? p = some i ↔ p i ∧ ∀ j, j < i → ¬ p j
+theorem isNone_find?_iff {p : Fin n → Bool} : (find? p).isNone ↔ ∀ i, ¬ p i := by
+  simp [find?]
 
-theorem find?_eq_none_iff {p : Fin n → Bool} : find? p = none ↔ ∀ i, ¬ p i := by
-  rw [← find?_isNone_iff, Option.isNone_iff_eq_none]
+theorem eq_true_of_find?_eq_some {p : Fin n → Bool} (h : find? p = some i) : p i :=
+    (find?_eq_some_iff.mp h).1
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:157]:
```suggestion
theorem eq_true_of_find?_eq_some {p : Fin n → Bool} (h : find? p = some i) :
    p i = true := (find?_eq_some_iff.mp h).1
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 29]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+
+theorem eq_false_of_find?_eq_some_of_lt {p : Fin n → Bool} (h : find? p = some i) :
+    ∀ j < i, ¬ p j := (find?_eq_some_iff.mp h).2
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem eq_false_of_find?_eq_some_of_lt {p : Fin n → Bool} (h : find? p = some i) :
    ∀ j < i, p j = false := (find?_eq_some_iff.mp h).2
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 30]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+
+theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
+    ¬ p i := by
+  rw [find?_eq_none_iff] at h
+  grind
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) :
    p i = false := find?_eq_none_iff.1 h i
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 31]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+
+theorem exists_eq_true_of_isSome_find? {p : Fin n → Bool} (h : (find? p).isSome) :
+    ∃ i, p i := by
+  rwa [isSome_find?_iff] at h
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem exists_eq_true_of_isSome_find? {p : Fin n → Bool} (h : (find? p).isSome) :
    ∃ i, p i = true := isSome_find?_iff.1 h
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 32]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+
+theorem ne_true_of_isNone_find? (h : (find? p).isNone) : ¬ p i := by
+  simp only [Option.isNone_iff_eq_none, find?_eq_none_iff] at h ⊢
+  exact h _
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
theorem eq_false_of_isNone_find? (h : (find? p).isNone) :
    p i = false := isNone_find?_iff.1 h i
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 33]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+
+ theorem isSome_find?_of_eq_true (h : p i) :
+    (find? p).isSome := by
+  simp only [Option.isSome_iff_ne_none, ne_eq, find?_eq_none_iff]
+  grind
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]:
```suggestion
 theorem isSome_find?_of_eq_true (h : p i) :
    (find? p).isSome := isSome_find?_iff.2 ⟨_, h⟩
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 34]
```diff
@@ -126,31 +124,46 @@ theorem find?_succ {p : Fin (n+1) → Bool} :
...
+
+theorem isSome_find?_iff_exists_eq_true {p : Fin n → Bool} : (find? p).isSome ↔ ∃ i, p i :=
+  ⟨exists_eq_true_of_isSome_find?, fun ⟨_, h⟩ => isSome_find?_of_eq_true h⟩
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: Duplicate.
```suggestion
```

**Review by fgdorais — CHANGES_REQUESTED** [review]
Cleanup. Golfing. Normal form.

File: Batteries/Data/Fin/Lemmas.lean (hunk 28 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean:157]: Automatic.

File: Batteries/Data/Fin/Lemmas.lean [hunk 35]
```diff
@@ -42,63 +43,56 @@ theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
...
-
-theorem findSome?_isNone_iff {f : Fin n → Option α} :
+theorem isNone_findSome?_iff {f : Fin n → Option α} :
     (findSome? f).isNone ↔ ∀ i, (f i).isNone := by simp
 
+@[simp] theorem isSome_findSome?_iff {f : Fin n → Option α} :
+    (findSome? f).isSome ↔ ∃ i, (f i).isSome := by
+  cases h : findSome? f with (simp only [findSome?_eq_none_iff, findSome?_eq_some_iff] at h; grind)
+
+theorem exists_min_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: I prefer minimal since min has other meanings.
```suggestion
theorem exists_minimal_of_findSome?_eq_some {f : Fin n → Option α} (h : findSome? f = some x) :
```
